* C:\Users\RFLab\Documents\GitHub\MPS\Electrical Hardware\LTSpice Files\Anti-Alias_Filt.asc
V1 N006 0 AC 1
C1 N007 N006 10n
R1 N008 N007 {RF}
XU1 N001 N008 N001 opamp Aol=100K GBW=10Meg
R3 N007 0 100k
C5 N003 0 {C1}
C6 N004 0 {C2}
R5 N003 N002 1k
L1 N003 N004 {LVal} Rser={Rs}
C12 N005 0 {C1}
L2 N004 N005 {LVal} Rser={Rs}
R4 N005 0 2.2k
C2 N002 N001 10n
.lib opamp.sub
.ac oct 100 100 1meg
;.step param LVal 100u 500u 100u
.param LVal=470u C1=.3n C2=.75n RF=1100 Rs=20 CF=500p
.backanno
.end
