* C:\Users\elima\OneDrive\Documents\GitHub\MPS\Electrical Hardware\LTSpice Files\Rx files\Rx Filter-DualBand.asc
V1 Vin 0 AC 1
L1 N007 N006 36u Rser=500m
C1 N007 N006 1u
C2 N011 N007 .2u
L2 N011 0 180u Rser=500m
L3 N007 0 1
L4 N008 N018 16
C3 N009 N008 20n
C4 N017 N018 20n
R1 N017 N022 10k
R2 N003 N009 10k
L5 N003 N009 3m
L6 N017 N022 3m
R3 N022 0 100
XU1 N017 N010 N016 N009 N019 0 N012 N004 AD8429
R4 N010 N016 1k
V2 N004 0 5
V3 0 N019 5
R5 0 N003 100
L7 N006 Vin 31u Rser=1.9
XU2 N021 0 Vout2 opamp Aol=100K GBW=10Meg
R6 N021 N024 1k
R7 N021 N020 1k
R8 Vout2 N021 1k
XU3 0 N025 N026 N006 N027 0 N024 N023 AD8429
R9 N025 N026 250
V4 N023 0 5
V5 0 N027 5
XU4 Vout N015 Vout opamp Aol=100K GBW=10Meg
R10 N005 N014 4.7k
R11 N015 N005 4.7k
C5 N015 0 50p
C6 Vout N005 50p
XU5 N002 Vin N001 opamp Aol=100K GBW=10Meg
R12 N013 N012 470
R13 N002 N014 470
C7 N014 N013 1u
R14 N001 N002 470
;noise V(Vout2) V1 oct 100 10k 150k
K L3 L4 1
.ac oct 100 10k 150k
.lib opamp.sub
.lib ADI1.lib
.backanno
.end
