* C:\Users\e22ma\OneDrive - Massachusetts Institute of Technology\Documents\GitHub\MPS\Electrical Hardware\LTSpice Files\Drive Filter\Draft3.asc
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
V1 N003 0 ac 1
R1 N001 N004 500
R2 N002 N001 5k
L1 N004 N003 .3m
.lib opamp.sub
.ac oct 100 1000 1000000
.backanno
.end
