* C:\Users\e22ma\OneDrive - Massachusetts Institute of Technology\Documents\GitHub\MPS\Electrical Hardware\LTSpice Files\Drive Filter\MPS_V0_10kHzConfig.asc
Vsource1 Vsource1 0 SINE(0 60 25k 0 0 0) AC 1 Rser=0
L1 V1 V2 16.38µ Rser=0.075
C2 V2 0 11µ
L2 V2 V3 155.9µ Rser=0.26
C3 V3 0 5µ
Ldrive V3 N001 61.6µ
Rdrive N001 0 325m
C1 V1 Vsource1 5µ
.ac dec 1000 1k 500k
.backanno
.end
